US07618961B2
Ethyl [2-({[2-(methylsulfonyl)phenyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 2-methylsulfonylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (28.4 mg) with purity >90%. MS (pos) m/z 405.4.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 2-methylsulfonylbenzenesulfonyl chloride | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO4S2
product | Ethyl [2-({[2-(methylsulfonyl)phenyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C14H16N2O6S3
